Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
proteinuria
 
Major Surgical or Invasive Procedure:
Kidney biopsy ___
 
History of Present Illness:
HPI: Mrs. ___ reports that  she went to ___ in ___
where she started to develop a dry cough.  She also traveled to
___ in ___.  Her cough has been intermittent 
since
then.  Is a dry cough, no significant sputum, and no hemoptysis.
Recently has been associated with limited exertional tolerance
due to fatigue and SOB w/ exertion.  Says she can't walk very 
far
any more because of fatigue & SOB. Denies chest pain w/ 
exertion.

She has been having night sweats and fevers to 102 every night
for the last month.  She is also been experiencing some 
nosebleed
and sinus issues.  She was on a brief course of Levaquin early 
in
___. During that time her urine did test positive for
Klebsiella.  She had labs drawn at her Rheumatology appointment
which showed her urine to protein creatinine ratio had increased
to 1.4, ANCA (MPO) had come back positive and her complements
were within normal range.  

She endorses decreased appetite.  She has lost 7 pounds in the
last month.  She denies any associated nausea, vomiting,
odynophagia, dysphagia, abdominal pain or diarrhea.

She denies any dysuria, urinary urgency/hesitancy, or urinary
incontinence recently.  She also mentions that she did not have
nay urinary symptoms when she was diagnosed with the Klebsiella
UTI earlier this month.

She endorses chronic peripheral vision loss, says she is legally
blind. Says her central vision is preserved.

She denies any current complaints. Says she feels good. Denies
HA, vision changes, sore throat, chest pain, SOB at rest,
n/v/AP/d, dysuria, recent skin rashes, fingernail changes, or
arm/leg swelling.

ROS: 10 systems reviewed and negative except as noted in HPI
above. 

 
Past Medical History:
-SLE 
 -- w/ lupus nephritis class IV-G (began in ___
 -- hx of pleuritis, pericarditis, thrombocytopenia
 -- ___, +RNP, ___, neg SSA & SSB
 -- hx of treatment w/ Plaquenil for > ___ years
 -- hx of treatment w/ high-dose prednisone & CellCept
 -- went off the Plaquenil in ___ because of narrowing of the
visual fields because of a progressive retinal disease (RP)
-HTN
-Hypothyroidism (subclinical, not on levothyroxine)
-Impaired vision (peripheral vision loss of unclear etiology,
potentially related to Plaquenil; is legally blind, has some
preservation of central vision)
-Possible Gout (2 episodes of podagra)
-Hyperglycemia (1 episode)
-GERD w/ ___ esophagus
-Klebsiella UTI (___)
-Myeloperoxidase positive (___)

PSHx: 
-hx of breast biopsy
 
Social History:
___
Family History:
Family History:  Notable for the absence of kidney disease. 
Mother had breast cancer, father had pancreatic cancer.  
 
Physical Exam:
ADMISSION
VS:99.5  PO 167 / 89 R Lying 78 18 99 RA 
Gen: NAD
HEENT: EOMI, PERRL, anicteric, MMM; +limited peripheral vision
Neck: no JVD or elevated JVP, no cervical LAD appreciated
Chest: mild bibasilar coarse crackles; + wheeze & prolonged
expiratory phase during coughing; no rhonchi; no dullness to
percussion or absent breath sounds to suggest large effusion;
normal WOB
Cardiovasc: RR, ___ systolic murmur at RUSB w/o radiation to
carotids; 2+ radial and DP pulses b/l; no peripheral edema
Abd: S, NT, ND, BS+
GU: no CVA tenderness to percussion
MSK: thin limbs, no joint swelling/erythema in fingers, wrists,
elbows, knees, ankles, or toes 
Skin: no jaundice, no rashes, no ulcers
Neuro: AAOx4, clear speech, conversant, normal attention, normal
concentration, tongue midline, no facial droop, normal
coordination 
Psych: calm, cooperative

DISCHARGE

VS: 98.9 (tmax 100.4) PO 151 / 87 83 18 97 RA 
Gen - sitting up in bed, comfortable appearing
Eyes - EOMI
ENT - OP clear, MMM; no sore
Heart - RRR no mrg
Lungs - CTA bilaterally, no wheezing, rales, ronchi; 
Abd - soft nontender, normal bowel sounds 
Ext - no edema; no joint swelling or warmth; 
Skin - no rashes
Vasc - 2+ DP/radial pulses
Neuro - AOx3, moving all extremities
Psych - appropriate

 
Pertinent Results:
ADMISSION
___ 02:19PM BLOOD WBC-6.4 RBC-3.93 Hgb-10.8* Hct-33.7* 
MCV-86 MCH-27.5 MCHC-32.0 RDW-15.6* RDWSD-48.6* Plt ___
___ 02:19PM BLOOD UreaN-16 Creat-1.0 Na-138 K-3.7 Cl-98 
HCO3-27 AnGap-13
___ 06:20PM BLOOD ALT-11 AST-27 AlkPhos-111* TotBili-0.5
___ 06:02AM BLOOD Calcium-8.6 Phos-4.6* Mg-1.9 UricAcd-5.0

WORKUP
___ 05:58AM BLOOD CRP-15.9*
___ 02:19PM BLOOD dsDNA-NEGATIVE
___ 02:19PM BLOOD C3-115 C4-30

DISCHARGE
___ 05:58AM BLOOD WBC-6.0 RBC-3.70* Hgb-10.1* Hct-31.8* 
MCV-86 MCH-27.3 MCHC-31.8* RDW-15.8* RDWSD-49.1* Plt ___
___ 05:58AM BLOOD Glucose-90 UreaN-19 Creat-1.0 Na-143 
K-3.5 Cl-103 HCO___-23 AnGap-17

BX-NEEDLE KIDNEY BY NEPHROLOGIST 
Ultrasound guidance for percutaneous left kidney biopsy.
 
Brief Hospital Course:
This is a ___ year old female with past medical history of SLE 
and lupus nephritis, on mycophenolate, hypertension, gout, GERD, 
with recent international travel, with cough, fevers, 
nightsweats, and increasing proteinuria, admitted for expedited 
kidney biopsy and workup, status post kidney biopsy, who was 
seen by inpatient pulmonary team who felt additional inpatient 
workup for infectious causes was not indicated, able to be 
discharged home with close outpatient rheumatology and 
nephrology follow-up

# Proteinuria 
# SLE
# Lupus nephritis 
Patient with history of lupus nephritis on MMF, who had recently 
been found to have worsening proteinuria as well as positive 
ANCA with strongly positive MPO /weakly positive PR3 and normal 
complement levels.  Patient was admitted for expedited biopsy to 
better characterize etiology of proteinuria, with differential 
including progression of lupus nephritis vs new vasculitis.  
Patient underwent uncomplicated renal biopsy, was observed 4 
hours without pain, hematuria or vital sign abnormalities.  Per 
discussion with nephrology and rheumatology consult services, 
patient was discharged with close follow-up---primary outpatient 
teams plan to contact the patient with rush biopsy results to 
discuss therapy. Continued ___ and ___ Mycophenolate Mofetil. 

# Fever, cough and nightsweats
# Abnormal CT lungs
In setting of above, patient presented with several weeks of 
intermittent fevers, cough and nightsweats. CT chest performed 
prior to admission demonstrated "Stable subpleural interstitial 
abnormality predominantly within both lower lobes most likely 
represents nonspecific interstitial pneumonitis" as well as 
"Stable 6 mm right lower lobe pulmonary nodule.  No new 
pulmonary nodules."  Given her symptoms and the likelihood she 
would need augmentation of her immunosuppressive regimen, team 
discussed whether further workup for infection was indicated.  
ID service and pulmonary service were consulted.  While 
initially ID recommended ruling out for tuberculosis, pulmonary 
service evaluated her imaging and felt that it was consistent 
with Nonspecific interstitial pneumonia, and not any infectious 
process.  This was discussed with the patient, as well as the 
risks/benefits of any potential workup--patient declined 
additional workup, which pulmonary service agreed with.  Primary 
nephrology and rheumatology teams were notified of this as well 
and agreed re: outpatient follow-up as above. Pulmonary 
recommended outpatient follow-up for NSIP.  

# GERD 
# History of ___ esophagus
Continued home PPI 

Transitional Issues
- Discharged home
- Patient requested discharge home with plan for outpatient 
follow-up 
- Biopsy results pending; patient will be contacted with these 
results by primary renal and rheumatology teams
- ANCA, Bglucan, ESR, Anaplasma serologies all pending at 
discharge
- CT chest performed prior to admission showed "Stables 6 mm 
right lower lobe pulmonary nodule.  No new pulmonary nodules." 
Radiology recommended ___ month follow-up. 

> 30 minutes spent on this discharge
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. irbesartan 300 mg oral DAILY 
2. Fish Oil (Omega 3) 1000 mg PO DAILY 
3. Mycophenolate Mofetil 500 mg PO BID 
4. Omeprazole 20 mg PO BID 
5. Calcium Carbonate 600 mg PO BID 
6. Vitamin D 600 UNIT PO DAILY 
7. lutein 6 mg oral DAILY 

 
Discharge Medications:
1.  Calcium Carbonate 600 mg PO BID  
2.  Fish Oil (Omega 3) 1000 mg PO DAILY  
3.  irbesartan 300 mg oral DAILY  
4.  lutein 6 mg oral DAILY  
5.  Mycophenolate Mofetil 500 mg PO BID  
6.  Omeprazole 20 mg PO BID  
7.  Vitamin D 600 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# Lupus nephritis 
# Fever cough and nightsweats
# Proteinuria 
# SLE
# GERD 
# History of ___ esophagus

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Ms. ___: 

It was a pleasure caring for you at ___.  You were admitted 
with concern for worsening protein in your urine.  You underwent 
a kidney biopsy to help determine what the cause of this was.

There was also concern about whether or not you could have an 
infection causing your cough and fevers.  You were seen by 
infection specialists.  You were seen by lung specialists who 
felt that you did not need any additional testing in the 
hospital.

You were observed after your biopsy and were stable.  You 
preferred to be discharged home that evening.  

Your kidney and rheumatology teams will be in touch about your 
biopsy results, whether any additional testing is needed, and 
with recommendations about treatments.

The kidney doctors ___: no heavy lifting, no aspirin or 
any blood thinner for 5 days. 
 
Followup Instructions:
___